US07968554B2
3-Chloro-4-fluoro-benzoic acid 5-(3-chloro-4-fluoro-benzoylamino)-2-methyl-phenyl ester (3.93 g, 9 mmol, from above) was dissolved in a mixture of tetrahydrofuran (25 mL), methanol (50 mL) and aqueous 1N sodium hydroxide (9 mL, 9 mmol). The mixture was stirred at room temperature for 18 hours. The mixture was then concentrated under reduced pressure to remove most of the organic solvent. The resulting suspension was then diluted with water (45 mL) and saturated aqueous sodium bicarbonate solution (5 mL). After standing for 30 minutes, precipitate was collected, washed with water and dried to give crude 3-chloro-4-fluoro-N-(3-hydroxy-4-methyl-phenyl)-benzamide as a white powder. (Yield 2.59 g).

reactant | 3-Chloro-4-fluoro-benzoic acid 5-(3-chloro-4-fluoro-benzoylamino)-2-methyl-phenyl ester | 9 mmol, 3.93 g | ClC=1C=C(C(=O)NC=2C=CC(=C(C2)OC(C2=CC(=C(C=C2)F)Cl)=O)C)C=CC1F | C21H13Cl2F2NO3
reactant | sodium hydroxide | 9 mmol, 1N, 9 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 3-chloro-4-fluoro-N-(3-hydroxy-4-methyl-phenyl)-benzamide | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)C)O)C=CC1F | C14H11ClFNO2
